US06677462B2
To a stirred solution of (S)-(−)-α,α-diphenyl-2-pyrrolidinemethanol (770 mg, 3 mmol) in dry THF (100 mL) was added 2 M THF solution of borane-dimethylsulfide complex (11 mL, 22 mmol) at rt under N2. After being stirred at rt for 16 h, a solution of 3-Oxo-5-phenyl-pentanoic acid methyl ester (JACS, 1974, 1082-1087) (6.5 g, 31.5 mmol) in dry THF (20 mL) was added dropwise at rt over a period of 1 h. The resultant clear solution was stirred at rt for another 30 min and was then cooled to 0° C. in an ice bath. The reaction was quenched by the addition of MeOH (90 mL) and the reaction pot was concentrated under reduced pressure. The residue was taken up with EtOAc (200 mL) and washed successively with H2O (100 mL), citric acid (100 mL), 5% NaHCO3 (100 mL) and brine (100 mL). After being dried over Na2SO4, the solvent was removed to afford an oil. Flush column chromatography purification on silica gel gave 3-Hydroxy-5-phenyl-pentanoic acid methyl ester as an oil (3.3 g, 51%) with 92% e.e. (judged from the corresponding Mosher's ester). 1H NMR (300 MHz, CDCl3) δ1.6-1.9 (m, 2H), 2.4-2.6 (m, 2H), 2.65-2.9 (m, 2H), 3.05 (d, 1H, J=6), 3.7 (s, 3H), 3.95-4.10 (m, 1H), 7.10-7.35 (m, 5H). ESMS calcd (C12H16O3): 208.1; found: 209.1 (M+H)+.

reactant | (S)-(−)-α,α-diphenyl-2-pyrrolidinemethanol | 3 mmol, 770 mg | C1(=CC=CC=C1)C(O)([C@H]1NCCC1)C1=CC=CC=C1 | C17H19NO
reactant | 3-Oxo-5-phenyl-pentanoic acid methyl ester | 31.5 mmol, 6.5 g | COC(CC(CCC1=CC=CC=C1)=O)=O | C12H14O3
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 2 M | C1CCOC1 | C4H8O
product | 3-Hydroxy-5-phenyl-pentanoic acid methyl ester | 3.3 g, 51% | COC(CC(CCC1=CC=CC=C1)O)=O | C12H16O3
